US07005553B2
2,4-Difluoro-6-nitrophenol
To a stirred solution of 2,4-difluorophenol (0.65 g, 5 mmol) in dichloromethane (7 mL) at room temperature was added tetrabutylammoniumhydrogen sulphate (0.085 g, 5 mol %) followed by isopropyl nitrate (1.31 g, 12.5 mmol). Sulphuric acid (96%, 0.65 mL) was then added dropwise to the mixture causing gentle reflux of the solvent. The reaction mixture was then stirred for fifteen minutes and then poured onto water (50 mL). The phases were separated and the aqueous phase was extracted by dichloromethane (10 mL). The combined organic layers were washed by brine, dried over anhydrous sodium sulphate and filtered through a short pad of silica gel. Evaporation of the solvent (40° C., water aspirator pressure) afforded a yellow solid, identified by NMR as the title compound (0.73 g, 83%). (ortho-selectivity 100%, no nitro-isomers detected).

reactant | 2,4-difluorophenol | 5 mmol, 0.65 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | isopropyl nitrate | 12.5 mmol, 1.31 g | [N+](=O)(OC(C)C)[O-] | C3H7NO3
reactant | Sulphuric acid | 0.65 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammoniumhydrogen sulphate | 0.085 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,4-Difluoro-6-nitrophenol | 0.73 g, 83% | FC1=C(C(=CC(=C1)F)[N+](=O)[O-])O | C6H3F2NO3
